US09278944B2
To a solution of tert-butyl (2R)-2-{[{1-[4-(benzyloxy)-3-(3-methoxypropoxy)phenyl]ethyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate (1.45 g) in methanol 912 mL) was added 10% palladium on carbon (200 mg), and the mixture was stirred under hydrogen for 2 hours. An insoluble was filtered, and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=2/1→1/2) to give tert-butyl (2R)-2-[(cyclopropyl{(1R)-1-[4-hydroxy-3-(3-methoxypropoxy)phenyl]ethyl}amino)carbonyl]morpholin-4-carboxylate [Ex(169-1)] (913 mg) as a colorless oil.

reactant | tert-butyl (2R)-2-{[{1-[4-(benzyloxy)-3-(3-methoxypropoxy)phenyl]ethyl}(cyclopropyl)amino]carbonyl}morpholin-4-carboxylate | 1.45 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C)N(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1CC1)OCCCOC | C32H44N2O7
solvent | methanol | 912 mL | CO | CH4O
catalyst | palladium on carbon | 200 mg | [Pd] | Pd
product | tert-butyl (2R)-2-[(cyclopropyl{(1R)-1-[4-hydroxy-3-(3-methoxypropoxy)phenyl]ethyl}amino)carbonyl]morpholin-4-carboxylate | 913 mg | C1(CC1)N(C(=O)[C@H]1CN(CCO1)C(=O)OC(C)(C)C)[C@H](C)C1=CC(=C(C=C1)O)OCCCOC | C25H38N2O7
